US06310256B1
(1) Preparation of Phenanthrenequinone
Phenanthrene (16 g, Aldrich Tech Grade (90 percent), 0.081 mol) and acetic acid (200 ml) were stirred and heated to 70-75° C. Potassium bromate (32 g, 0.19 mol) was added in 2 portions. After the addition of the first portion the temperature rose to reflux with evolution of bromine vapors. The second portion was added and the condenser was replaced by a distillation head. The heating was continued until the distillate was colorless. The deep red solution was cooled and poured into water (300 ml) and the precipitate was isolated by filtration. The crude product was purified by reslurrying in 100 ml of hot (70° C.) aqueous sodium bisulfite solution (40 percent) and filtering while hot. The deep red filtrate was cooled and treated with aqueous sodium carbonate until basic. The precipitated product was recovered by extraction with methylene chloride, dried and concentrated to yield 13.4 g (80 percent yield) of orange yellow solid: mp 182-184° C.

reactant | Phenanthrene | 0.081 mol, 16 g | C1=CC=CC=2C3=CC=CC=C3C=CC12 | C14H10
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | Potassium bromate | 0.19 mol, 32 g | Br(=O)(=O)[O-].[K+]
reactant | bromine | BrBr | Br2
solvent | water | 300 ml | O | H2O
product | Phenanthrenequinone | 13.4 g, 80 percent yield | C1(C(C=CC=2C3=CC=CC=C3C=CC12)=O)=O | C14H8O2
